US04999356
A mixture of 7.9 g of 1-(2-chlorophenyl)-3-(1-piperazinyl)-1H-indazole, 7.3 g of nitrourea and 100 ml of dimethylformamide was heated on a steam bath for 15 minutes. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated. The concentrate was flash chromatographed on silica gel eluting with chloroform/methanol (5%). Concentration of the appropriate fraction yielded a foam, which when stirred overnight with isopropyl ether afforded 4.0 g of 4-[1-(2-chlorophenyl)-1H-indazol-3-yl]-1-piperazine carboxamide as a powder. A 3.4 g sample of the free base was dissolved in diethyl ether and treated with 1.1 g of fumaric acid. The resulting salt was recrystallized from ethyl acetate to yield 2.3 g (22%) of 4-[1-(2-chlorophenyl)-1H-indazol-3-yl]-1-piperazine carboxamide hemifumarate, m.p. 156°-158°.

reactant | 1-(2-chlorophenyl)-3-(1-piperazinyl)-1H-indazole | 7.9 g | ClC1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H17ClN4
reactant | nitrourea | 7.3 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
product | 4-[1-(2-chlorophenyl)-1H-indazol-3-yl]-1-piperazine carboxamide | 4.0 g | ClC1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C(=O)N | C18H18ClN5O
